Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing / Fish Product Derivatives
 
Attending: ___.
 
Chief Complaint:
Rectal Bleeding
 
Major Surgical or Invasive Procedure:
Clipping of bleeding polypectomy x2

 
History of Present Illness:
___ M w/ HTN, BPH, and colonic polyp removal ___ yesterday via 
colonoscopy who presents with bright red blood per rectum that 
began this morning. Patient reports has had a total of 11 BM's 
since 9 am of mostly blood mixed with stool. He denies any 
abdominal pain, but does report some intermittent cramping in 
lower abdomen prior to BM. After colonoscopy yesterday he was 
pain-free without bleeding. He was able to eat dinner yesterday 
and breakfast this am. Patient does endorse some lightheadedness 
now, but no syncope. Patient not on any blood thinners at home.  
Denies abdominal pain, nausea, vomiting, chest pain, 
palpitations, dyspnea, or fevers.

In the ED, initial vitals: 98.6 106 118/87 18 97%. Exam notable 
for tachycardia and rectal exam revealed gross blood on glove 
without pain, enlarged prostate noted.  Labs notable for H&H 
___ (baseline 16.1/43.2) and Na 131.  He received NS in the 
ED and BP increased relatively to SBP in the 130's. GI was 
consulted and plan to admit to medicine for further management.  
Vitals prior to transfer: Temp: 98.3p, Pulse: 94, RR: 14, BP: 
139/82, O2Sat: 100, O2Flow: (Room Air).

 
Past Medical History:
Hypertension
BPH
Hx colonic polyps in cecum
Rectal adenoma
 
Social History:
___
Family History:
 FAMILY HISTORY: Father: unknown bleeding problem that resolved, 
died of bladder cancer; Mother: died of leukemia
 
Physical Exam:
PHYSICAL EXAM: 
VS - 98.1  114/82    HR106  R16  sat 100% on RA 
GENERAL - NAD, lying in bed
HEENT -  moist mucosa
NECK - no masses
LUNGS -  CTAB, no wheeze, good air movement
HEART -   NR, RR, no murmur
ABDOMEN - mild tenderness to palpation diffusely, soft, ND
EXTREMITIES -  no peripheral edema
SKIN -  no skin lesions
NEURO - alert & oriented, no gross focal neuro deficit
  
On discharge: abdominal tenderness had resolved, and ambulated 
without assistance or dizziness; Patient's tachycardia also 
resolved.
 
Pertinent Results:
___ 03:15PM BLOOD WBC-5.0# RBC-4.05* Hgb-13.7* Hct-37.5* 
MCV-93 MCH-33.7* MCHC-36.4* RDW-12.3 Plt ___
___ 09:12PM BLOOD Hgb-11.4* Hct-30.7*
___ 07:46AM BLOOD WBC-2.5* RBC-3.20* Hgb-10.9* Hct-29.7* 
MCV-93 MCH-33.9* MCHC-36.7* RDW-13.2 Plt ___
___ 12:50PM BLOOD Hct-26.7*
___ 05:08PM BLOOD Hct-25.4*
___ 02:04AM BLOOD WBC-2.2* RBC-2.86* Hgb-9.6* Hct-26.1* 
MCV-91 MCH-33.6* MCHC-36.8* RDW-13.4 Plt ___
___ 10:45AM BLOOD Hgb-10.6* Hct-29.4*
___ 04:30PM BLOOD Hgb-11.6* Hct-32.0*
___ 02:04AM BLOOD Glucose-145* UreaN-9 Creat-0.9 Na-134 
K-3.5 Cl-102 HCO3-29 AnGap-7*
___ 02:04AM BLOOD Calcium-8.0* Phos-3.8 Mg-1.9

Colonoscopy:
Findings:
Contents:Evidence of fresh blood was seen throughout the colon 
Excavated LesionsA single shallow clean based non-bleeding 
ulcer with visible vessel and adherent clot overlying was seen 
at the prior polypectomy site. This was thought to be the likely 
source of the bleed.  Two endoclips were successfully applied 
for the purpose of hemostasis. 
Impression:Blood in the colon
Ulcer in the cecum (endoclip)
Otherwise normal colonoscopy to cecum

 
Brief Hospital Course:
___ M w/ HTN, BPH, and colonic polyp removal ___ yesterday via 
colonoscopy who presents with bright red blood per rectum likely 
from polyp removal site.
  
# Acute blood loss anemia/GI Bleed: Patient came in with BRBPR 
with 10+ BM's/dayx1 due to bleeding from sites of polyp removal 
in cecum on ___. Patient had colonoscopy on ___ with 2 
clips placed on oozing site of polyp removal. Bleeding stopped.  
Patient did require 4 units of pRBCs during this 
hospitalization.  Hct increasing to >30 on discharge.
-maintained PIV x 2
-IVF @ 125cc/hr NS, until tolerating po after colonoscopy on 
___
-blood consent signed --> Patient transfused total of 4 units of 
pRBCs without any signs of hemodynamic instability
-held antihypertensives
-follow H&H very closely with multiple checks per day

# HTN: stable
-held home lisinopril-HCTZ 20 mg / 25 mg po daily.  Resumed on 
discharge
 
# BPH: stable
-held home tamsulosin ER 0.4 mg 24 hr cap po qHS.  Resumed on 
discharge

On discharge, patient no longer had any bloody BM's and was 
tolerating po without difficulty. He was ambulatory, denied 
dizziness and was ready to go home. Patient informed to present 
to ED if experienced any rebleeding.
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. EpiPen *NF* (EPINEPHrine) 0.3 mg/0.3 mL Injection PRN 
Anaphylaxis 
2. lisinopril-hydrochlorothiazide *NF* ___ mg Oral Daily 
3. Tamsulosin 0.4 mg PO HS 

 
Discharge Medications:
1. EpiPen *NF* (EPINEPHrine) 0.3 mg/0.3 mL Injection PRN 
Anaphylaxis 
2. lisinopril-hydrochlorothiazide *NF* ___ mg Oral Daily 
3. Tamsulosin 0.4 mg PO HS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastrointestinal Bleeding due to polypectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you while you were at ___ 
___.  You were admitted for Bleeding 
that was from your polypectomy site.  You had a repeat 
colonoscopy and the area of bleeding was clipped and the 
bleeding stopped.  While you were here you required 4 units of 
blood.  Your blood counts stabilized and we felt that you were 
stable for discharge. 
 
Followup Instructions:
___